US05380741
Preparation of 1-(4-chlorophenyl)-2-methyl-2-(2-methylpropionyl)cyclopropane
185 ml of tert-amyl alcohol are added to a suspension of 61.3 g of sodium hydride in 200 ml of NMP heated to 50° C. so as to have a steady evolution of hydrogen. The solution obtained is cooled to 25° C. and 176 g of solid trimethylsulphoxonium iodide are added, followed by a solution of 162 g of 1-(4-chlorophenyl)-2,4-dimethyl-1-penten-3-one in 250 ml of NMP. The resulting mixture is heated at 60° C. for 30 min. The product obtained is left in the reaction mixture for the following stage.

reactant | tert-amyl alcohol | 185 ml | C(C)(C)(CC)O | C5H12O
reactant | sodium hydride | 61.3 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | trimethylsulphoxonium iodide | [I-].C[S+](=O)(C)C
reactant | 1-(4-chlorophenyl)-2,4-dimethyl-1-penten-3-one | 162 g | ClC1=CC=C(C=C1)C=C(C(C(C)C)=O)C | C13H15ClO
solvent | NMP | 200 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 250 ml | CN1CCCC1=O | C5H9NO
product | 1-(4-chlorophenyl)-2-methyl-2-(2-methylpropionyl)cyclopropane | ClC1=CC=C(C=C1)C1C(C1)(C(C(C)C)=O)C | C14H17ClO
